US07579368B2
An aqueous solution of hydrochloric acid (2 M, 18 mL) was sparged for 10 min with nitrogen and then used to slurry 4,5-bis-(4-chlorophenyl)-2-[2-ethoxy-4-(1-ethoxyvinyl)phenyl]-4,5-dihydro-1H-imidazole (0.638 g, 1.33 mmol). Tetrahydrofuran (18 mL) was added to create a homogeneous solution. After stirring 1 h, the reaction mixture was poured into a mixture of 2 M sodium hydroxide (16 mL) and 10% sodium carbonate solution (50 mL) and extracted with methylene chloride (2×100 mL). The combined organic extracts were dried over sodium sulfate and concentrated. The residue was purified by flash column chromatography (silica gel, eluting with a gradient of 1-3% methanol in chloroform) to give 1-{4-[4,5-bis-(4-chlorophenyl)-4,5-dihydro-1H-imidazol-2-yl]-3-ethoxyphenyl}ethanone as a faintly yellow foam (0.392 g, 65%). LC-MS: 453.3 [(M+H)+].

reactant | 4,5-bis-(4-chlorophenyl)-2-[2-ethoxy-4-(1-ethoxyvinyl)phenyl]-4,5-dihydro-1H-imidazole | 1.33 mmol, 0.638 g | ClC1=CC=C(C=C1)C1N=C(NC1C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)C(=C)OCC)OCC | C27H26Cl2N2O2
reactant | sodium hydroxide | 2 M, 16 mL | [OH-].[Na+]
reactant | sodium carbonate | 50 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | Tetrahydrofuran | 18 mL | O1CCCC1 | C4H8O
product | 1-{4-[4,5-bis-(4-chlorophenyl)-4,5-dihydro-1H-imidazol-2-yl]-3-ethoxyphenyl}ethanone | ClC1=CC=C(C=C1)C1N=C(NC1C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)C(C)=O)OCC | C25H22Cl2N2O2
